US08431563B2
To a solution of 1,1,1-trifluoro-2-(4-((2S)-2-methyl-1-piperazinyl)phenyl)-2-propanol dihydrochloride (100 mg, 0.277 mmol) and triethylamine (0.115 mL, 0.830 mmol) in CH2Cl2 (4.0 mL) was added 3-furansulfonyl chloride (55.3 mg, 0.332 mmol, Ryan Scientific, Inc., Mt. Pleasant, S.C.). After 30 min at room temperature, the reaction was concentrated and purified via column chromatography (12 g of silica, 0 to 70% EtOAc in hexanes) to yield 1,1,1-trifluoro-2-(4-((2S)-4-(3-furanylsulfonyl)-2-methyl-1-piperazinyl)phenyl)-2-propanol (25 mg) as a mixture of two isomers.

reactant | 1,1,1-trifluoro-2-(4-((2S)-2-methyl-1-piperazinyl)phenyl)-2-propanol dihydrochloride | 0.277 mmol, 100 mg | Cl.Cl.FC(C(C)(O)C1=CC=C(C=C1)N1[C@H](CNCC1)C)(F)F
reactant | triethylamine | 0.830 mmol, 0.115 mL | C(C)N(CC)CC | C6H15N
reactant | 3-furansulfonyl chloride | 0.332 mmol, 55.3 mg | O1C=C(C=C1)S(=O)(=O)Cl | C4H3ClO3S
solvent | CH2Cl2 | 4.0 mL | C(Cl)Cl | CH2Cl2
product | 1,1,1-trifluoro-2-(4-((2S)-4-(3-furanylsulfonyl)-2-methyl-1-piperazinyl)phenyl)-2-propanol | 25 mg | FC(C(C)(O)C1=CC=C(C=C1)N1[C@H](CN(CC1)S(=O)(=O)C1=COC=C1)C)(F)F | C18H21F3N2O4S
